* AD102 -- c_moscap_cv.spice
* Guide page: "A capacitor is a sandwich"
*
* The same 10 um x 10 um MOS capacitor, nineteen times over, each copy
* held at a different gate voltage. A MIM capacitor would report the same
* number at every one of them. This one does not, and that is the whole
* reason MIM exists.
*
* Each copy: an nfet with drain, source and body tied to ground, an AC
* voltage source on the gate, and a DC source setting the bias.
* C = Im(I) / (2*pi*f) with a 1 V AC drive.
*
* Runs inside hpretl/iic-osic-tools:2026.04.  ngspice -b spice/c_moscap_cv.spice
* W and L are PLAIN MICRON NUMBERS -- no `u` suffix anywhere.

.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt

Vac00 g00 n00 dc 0 ac 1
Vdc00 n00 0 dc 0.0
Xm00 0 g00 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac01 g01 n01 dc 0 ac 1
Vdc01 n01 0 dc 0.1
Xm01 0 g01 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac02 g02 n02 dc 0 ac 1
Vdc02 n02 0 dc 0.2
Xm02 0 g02 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac03 g03 n03 dc 0 ac 1
Vdc03 n03 0 dc 0.3
Xm03 0 g03 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac04 g04 n04 dc 0 ac 1
Vdc04 n04 0 dc 0.4
Xm04 0 g04 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac05 g05 n05 dc 0 ac 1
Vdc05 n05 0 dc 0.5
Xm05 0 g05 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac06 g06 n06 dc 0 ac 1
Vdc06 n06 0 dc 0.6
Xm06 0 g06 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac07 g07 n07 dc 0 ac 1
Vdc07 n07 0 dc 0.7
Xm07 0 g07 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac08 g08 n08 dc 0 ac 1
Vdc08 n08 0 dc 0.8
Xm08 0 g08 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac09 g09 n09 dc 0 ac 1
Vdc09 n09 0 dc 0.9
Xm09 0 g09 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac10 g10 n10 dc 0 ac 1
Vdc10 n10 0 dc 1.0
Xm10 0 g10 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac11 g11 n11 dc 0 ac 1
Vdc11 n11 0 dc 1.1
Xm11 0 g11 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac12 g12 n12 dc 0 ac 1
Vdc12 n12 0 dc 1.2
Xm12 0 g12 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac13 g13 n13 dc 0 ac 1
Vdc13 n13 0 dc 1.3
Xm13 0 g13 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac14 g14 n14 dc 0 ac 1
Vdc14 n14 0 dc 1.4
Xm14 0 g14 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac15 g15 n15 dc 0 ac 1
Vdc15 n15 0 dc 1.5
Xm15 0 g15 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac16 g16 n16 dc 0 ac 1
Vdc16 n16 0 dc 1.6
Xm16 0 g16 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac17 g17 n17 dc 0 ac 1
Vdc17 n17 0 dc 1.7
Xm17 0 g17 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vac18 g18 n18 dc 0 ac 1
Vdc18 n18 0 dc 1.8
Xm18 0 g18 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10

.control
ac lin 1 1k 1k
echo "--- MOS cap, 10 um x 10 um gate: C in farads at Vg = 0.0 .. 1.8 V ---"
let C_000mV = imag(-i(vac00))/(2*pi*1e3)
let C_010mV = imag(-i(vac01))/(2*pi*1e3)
let C_020mV = imag(-i(vac02))/(2*pi*1e3)
let C_030mV = imag(-i(vac03))/(2*pi*1e3)
let C_040mV = imag(-i(vac04))/(2*pi*1e3)
let C_050mV = imag(-i(vac05))/(2*pi*1e3)
let C_060mV = imag(-i(vac06))/(2*pi*1e3)
let C_070mV = imag(-i(vac07))/(2*pi*1e3)
let C_080mV = imag(-i(vac08))/(2*pi*1e3)
let C_090mV = imag(-i(vac09))/(2*pi*1e3)
let C_100mV = imag(-i(vac10))/(2*pi*1e3)
let C_110mV = imag(-i(vac11))/(2*pi*1e3)
let C_120mV = imag(-i(vac12))/(2*pi*1e3)
let C_130mV = imag(-i(vac13))/(2*pi*1e3)
let C_140mV = imag(-i(vac14))/(2*pi*1e3)
let C_150mV = imag(-i(vac15))/(2*pi*1e3)
let C_160mV = imag(-i(vac16))/(2*pi*1e3)
let C_170mV = imag(-i(vac17))/(2*pi*1e3)
let C_180mV = imag(-i(vac18))/(2*pi*1e3)
print C_000mV C_010mV C_020mV C_030mV C_040mV
print C_050mV C_060mV C_070mV C_080mV C_090mV
print C_100mV C_110mV C_120mV C_130mV C_140mV
print C_150mV C_160mV C_170mV C_180mV
.endc
.end
